US07507740B2
(ii) Production of 4-chloro-5-{3-[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]propyl}-5H-pyrrolo[3,2-d]pyrimidine
4-Chloro-5H-pyrrolo[3,2-d]pyrimidine (203.6 mg), 3-[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]propyl methanesulfonate (559.3 mg) was dissolved in N,N-dimethylformamide (4 mL), cesium carbonate (1.30 g) was added, and the mixture was stirred at 40° C. for 4.5 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was separated and purified by silica gel column chromatography (eluent, hexane:ethyl acetate=67:33→20:80) to give the title compound (380.2 mg) as a colorless oil.

reactant | 4-Chloro-5H-pyrrolo[3,2-d]pyrimidine | 203.6 mg | ClC=1C2=C(N=CN1)C=CN2 | C6H4ClN3
reactant | 3-[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]propyl methanesulfonate | 559.3 mg | CS(=O)(=O)OCCCOCCOC1OCCCC1 | C11H22O6S
reactant | cesium carbonate | 1.30 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 4-chloro-5-{3-[2-(tetrahydro-2H-pyran-2-yloxy)ethoxy]propyl}-5H-pyrrolo[3,2-d]pyrimidine | 380.2 mg | ClC=1C2=C(N=CN1)C=CN2CCCOCCOC2OCCCC2 | C16H22ClN3O3
